US07595345B2
E. 4-[1-Ethyl-1-(3-methyl-4-trifluoromethanesulfonyloxy-phenyl)-propyl]-2-methyl-benzoic acid methyl ester
4-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester (10.0 g, 30.63 mmol) in pyridine (30 ml) is added dropwise trifluoromethane sulfonic anhydride (10.37 g, 36.76 mmol) and warmed to room temperature overnight. The reaction is quenched by pouring into ice/water mix (200 ml) and extracted with Et2O (3×200 ml). The combined organic layers are washed with water (100 ml), 1N HCl (100 ml), water (100 ml), brine (100 ml), dried (MgSO4), concentrated and chromatographed (330 g SiO2, 5% EtOAc/Hexanes) to yield the title compound (12.46 g, 90%) as a pale yellow oil.

reactant | 4-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-benzoic acid methyl ester | 30.63 mmol, 10.0 g | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)O)C)CC)C)=O | C21H26O3
reactant | trifluoromethane sulfonic anhydride | 36.76 mmol, 10.37 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-[1-Ethyl-1-(3-methyl-4-trifluoromethanesulfonyloxy-phenyl)-propyl]-2-methyl-benzoic acid methyl ester | 12.46 g, 90% | COC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C)CC)C)=O | C22H25F3O5S
